US07612060B2
Step (iv): Synthesis of 2-(2-(tert-butyldiphenylsilyloxy)ethyl)-5,6,7,8-tetrahydro-quinazolin-5-ol
A solution of 2-(2-(tert-butyldiphenylsilyloxy)ethyl)-7,8-dihydroquinazolin-5(6H)-one (2.16 g, 5 mmol) in 30 mL of dry MeOH was treated with NaBH4 (189 mg, 5 mmol). After 5 min, the reaction was quenched with 5 mL of sat. NH4Cl solution. The MeOH was evaporated and the residue was extracted with DCM, dried over Na2SO4 and evaporated. Flash chomatography (SiO2, DCM to EtOAc) gave the desired product as a white solid.

reactant | 2-(2-(tert-butyldiphenylsilyloxy)ethyl)-7,8-dihydroquinazolin-5(6H)-one | 5 mmol, 2.16 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC1=NC=2CCCC(C2C=N1)=O | C26H30N2O2Si
reactant | NaBH4 | 5 mmol, 189 mg | [BH4-].[Na+]
solvent | MeOH | 30 mL | CO | CH4O
product | 2-(2-(tert-butyldiphenylsilyloxy)ethyl)-5,6,7,8-tetrahydro-quinazolin-5-ol | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC1=NC=2CCCC(C2C=N1)O | C26H32N2O2Si
